US06653281B1
Preparation of N-α-BOC-D-2,3-diaminopropionic Acid (E7-1)
To a 1:1 dimethylformamide:water solution (170 ml) of [bis(trifluoroacetoxy)iodo]benzene (12.89 g, 32.29 mmol, 1.5 equiv) was added N-α-BOC-D-asparagine (5 g, 21.53 mmol, 1 equiv). This solution stirred at room temperature for 0.5 h before pyridine (3.4 g, 43.06 mmol, 2 equiv) was added. After 18 h the reaction was concentrated in vacuo and the residue was redissolved in water before being washed with diethyl ether (2×, 50 ml). The aqueous layer was concentrated in vacuo and the crude product was recrystallized from hot acetonitrile to give E7-1 (1.10 g, 25% yield).

reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | [bis(trifluoroacetoxy)iodo]benzene | 32.29 mmol, 12.89 g, 1.5 equiv | FC(C(=O)OI(OC(C(F)(F)F)=O)C1=CC=CC=C1)(F)F | C10H5F6IO4
reactant | N-α-BOC-D-asparagine | 21.53 mmol, 5 g, 1 equiv | CC(C)(C)OC(=O)N[C@H](CC(=O)N)C(=O)O | C9H16N2O5
reactant | pyridine | 43.06 mmol, 3.4 g, 2 equiv | N1=CC=CC=C1 | C5H5N
solvent | water | 170 ml | O | H2O
product | N-α-BOC-D-2,3-diaminopropionic Acid | 25% yield | CC(C)(C)OC(=O)NC(CN)C(=O)O | C8H16N2O4
